US09278910B2
Prepared using General Procedures 6 and 9. To a stirred solution of 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid (500 mg, 2.13 mmol) and methyl 6-aminonicotinate (325 mg, 2.13 mmol) in DMF (5 mL) were added HATU (852 mg, 2.24 mmol) and TEA (744 μL, 5.34 mmol). The reaction mixture was stirred at room temperature. After 1 h the reaction mixture was diluted with EA (30 mL) and washed with brine (2×30 mL). The organics were dried over MgSO4 and concentrated in vacuo to afford an orange oil which was dissolved in DCM (5 mL) and washed with 1 M HCl (5 mL). The mixture was passed through a phase separation cartridge and the organics concentrated in vacuo to afford an orange oil which was dissolved in THF (5 mL) and MeOH (3 mL). To the reaction mixture was added 1 M LiOH (4.27 mL, 4.27 mmol) and the reaction was stirred at room temperature for 1 h then concentrated in vacuo. The residue was suspended in water (15 mL), acidified to pH 1 using 1 M HCl and the mixture was filtered under vacuum. The crude product was triturated with MeOH (5 mL) and dried in vacuo to afford 97 mg (13%) of 6-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)nicotinic acid INT-80 as a white solid. LCMS-ESI (m/z) calculated for C16H13F3N2O4: 354; found 355 [M+H]+, tR=1.84 min (Method 10).

reactant | 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid | 2.13 mmol, 500 mg | COC1=CC(=C(C=C1)CC(=O)O)C(F)(F)F | C10H9F3O3
reactant | methyl 6-aminonicotinate | 2.13 mmol, 325 mg | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
reactant | HATU | 2.24 mmol, 852 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | LiOH | 4.27 mmol, 1 M, 4.27 mL | [Li+].[OH-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EA | 30 mL | CC(OCC)=O | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | 6-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)nicotinic acid | 97 mg, 13% | COC1=CC(=C(C=C1)CC(=O)NC1=NC=C(C(=O)O)C=C1)C(F)(F)F | C16H13F3N2O4
